US07964618B2
tert-Butyl (3R)-3-(ethoxycarbonylmethoxy)pyrrolidine-1-carboxylate (4.0 g, 15.42 mmol) was dissolved in 4N HCl in 1,4-dioxane (50 mL), stirred at ambient temperature for 3 hrs, evaporated, co-evaporated with 1,4-dioxane (3×50 mL) and dried under high vacuum to give (R)-ethyl 2-(pyrrolidin-3-yloxy)acetate hydrochloride as an orange oil that solidified on standing. (3.2 g, 100%).

reactant | tert-Butyl (3R)-3-(ethoxycarbonylmethoxy)pyrrolidine-1-carboxylate | 15.42 mmol, 4.0 g | C(C)OC(=O)CO[C@H]1CN(CC1)C(=O)OC(C)(C)C | C13H23NO5
reactant | HCl | 4N | Cl | ClH
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | (R)-ethyl 2-(pyrrolidin-3-yloxy)acetate hydrochloride | Cl.N1C[C@@H](CC1)OCC(=O)OCC | InChI=1S/C8H15NO3.ClH/c1-2-11-8(10)6-12-7-3-4-9-5-7;/h7,9H,2-6H2,1H3;1H/t7-;/m1./s1
